US04372953
1-Methyl-5-mercapto-1,2,3,4-tetrazole (1.2 g) is dissolved in acetone (50 ml). To the solution are added 3-bromopropyl phenyl sulfide (2.5 g) and potassium carbonate (1.5 g) and the mixture is refluxed for 4 hours. Acetone is distilled off and water is added to the residue. The mixture is extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off and the residue is purified by column chromatography (Kieselgel 60). The column is eluted with benzenechloroform (3:2) to obtain 1-methyl-5-(3-phenylthiopropyl)thio-1,2,3,4-tetrazole (1.8 g) as colorless liquid, nD18 =1.6008.

reactant | 1-Methyl-5-mercapto-1,2,3,4-tetrazole | 1.2 g | CN1N=NN=C1S | C2H4N4S
reactant | 3-bromopropyl phenyl sulfide | 2.5 g | C1(=CC=CC=C1)SCCCBr | C9H11BrS
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-(3-phenylthiopropyl)thio-1,2,3,4-tetrazole | 1.8 g | CN1N=NN=C1SCCCSC1=CC=CC=C1 | C11H14N4S2
